US04187216
2 g (0.005 mol) of N-benzyloxycarbonyl-L-alanyl-L-proline cyclohexylamide were dissolved in 10 ml of 4-N hydrogen bromide in acetic acid and the mixture was stirred at room temperature for 1 hour. 100 ml of dry ether were then added. An oil precipitated and was allowed to settle. The solution was decanted off, the oil washed with 100 ml of ether, dissolved in the minimum volume of methanol and an excess of ethyl acetate added. Crystallisation soon took place and there were obtained 1.75 g (100%) of L-alanyl-L-proline cyclohexylamide hydrobromide of melting point 233°-236° C.

reactant | N-benzyloxycarbonyl-L-alanyl-L-proline cyclohexylamide | 0.005 mol, 2 g | C1(CCCCC1)NC([C@H]1N(CCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)=O | C22H31N3O4
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-alanyl-L-proline cyclohexylamide hydrobromide | 1.75 g, 100% | Br.C1(CCCCC1)NC([C@H]1N(CCC1)C([C@@H](N)C)=O)=O | InChI=1S/C14H25N3O2.BrH/c1-10(15)14(19)17-9-5-8-12(17)13(18)16-11-6-3-2-4-7-11;/h10-12H,2-9,15H2,1H3,(H,16,18);1H/t10-,12-;/m0./s1
